US07098212B2
3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylamino)-propionic acid methyl ester
To a solution of 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde (0.075 g, 0.18 mmol) in methanol (2 mL) was added 3-amino-propionic acid methyl ester hydrochloride salt (0.063 g, 0.45 mmol) and the pH of the solution was adjusted to 5–6 with triethylamine and acetic acid. The reaction mixture was stirred at ambient temperature for 1 hour. To the resulting reaction mixture was added sodium cyanoborohydride (0.023 g, 0.36 mmol), and the pH of the solution was again adjusted to pH 5 with acetic acid and triethylamine. The reaction mixture was stirred at ambient temperature overnight, diluted with ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica gel to give the title compound (0.035 g).

reactant | 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde | 0.18 mmol, 0.075 g | ClC=1C=CC(=C(C=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H24ClFN2O3
reactant | 3-amino-propionic acid methyl ester hydrochloride salt | 0.45 mmol, 0.063 g | Cl.COC(CCN)=O
reactant | sodium cyanoborohydride | 0.36 mmol, 0.023 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylamino)-propionic acid methyl ester | 0.035 g | COC(CCNCC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H33ClFN3O4
